US08729274B2
2-Cyano-3-(2,6-dichlorophenyl)propanoic acid (447 mmol, 109 g) was dissolved in DMA (179 ml) and heated for 2 hours at 150° C. After cooling, the reaction mixture was poured into water and extracted with ether. The organic layer was washed with a saturated solution of sodium hydrogen carbonate and then with a saturated solution of sodium chloride. The organic phase was dried over sodium sulfate and concentrated under reduced pressure to afford 3-(2,6-dichlorophenyl)propanenitrile (94% yield, 83.8 g).

reactant | 2-Cyano-3-(2,6-dichlorophenyl)propanoic acid | 447 mmol, 109 g | C(#N)C(C(=O)O)CC1=C(C=CC=C1Cl)Cl | C10H7Cl2NO2
reactant | water | O | H2O
solvent | DMA | 179 ml | CC(=O)N(C)C | C4H9NO
product | 3-(2,6-dichlorophenyl)propanenitrile | 83.8 g, 94% yield | ClC1=C(C(=CC=C1)Cl)CCC#N | C9H7Cl2N
